Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Gadolinium-Containing Contrast Media / gabapentin / pregabalin
 
Attending: ___.
 
Chief Complaint:
GERD
 
Major Surgical or Invasive Procedure:
___
Laparoscopic Toupet fundoplication

 
History of Present Illness:
Mr ___ is a ___ who presented with
burning reflux with symptoms worse at night in spite of multiple
GI meds. A Bravo ___ while on PPIs returned ___ of 18
Over the last week he noticed an exacerbation of reflux symptoms
in association with upper airway infection, currently on
Augmentin. He is requiring sleeping upright to alleviate reflux.
Constipation is under control with medication.

 
Past Medical History:
PAST MEDICAL HISTORY: per OMR 
ANXIETY 
GASTROESOPHAGEAL REFLUX 
MITRAL VALVE PROLAPSE 
OBSTRUCTIVE SLEEP APNEA 
OSTEOARTHRITIS 
SCIATICA 
HYPERTENSION 
ALLERGIC RHINITIS 
LUMBOSACRAL RADICULOPATHY 
BACK PAIN 
H/O PERIODIC LIMB MOVEMENT DISORDER 

PAST SURGICAL HISTORY:  per OMR
VASECTOMY 
LT GR TOE ATHRITIS SURG 
LUMBAR DISCECTOMY 
REVISION OF L5-S1 LT LAMINOFORAMINOTOMY FOR MICRODSCECTOMY 
 
Social History:
___
Family History:
NC
 
Physical Exam:
BP: 103/62. Heart Rate: 66. O2 Saturation%: 96. 
 Temperature: 98.6. Resp. Rate: 18.

GENERAL : Pleasant gentleman in no resp distress
HEENT: Atraumatic. Anicteric sclerae. Moist mucous membranes. 
O/P: clear.
CV: Regular rate and rhythm.  No murmurs.
Chest.  Clear to auscultation on all fields. No adventitious 
sounds.
Abd:+BS.  Obese but soft,non distended. Mild tenderness in LUQ, 
no rebound or guarding. Abd VATS port incisions without 
induration/discharge.
Extr: Warm and well perfused. No CCE       

 
Pertinent Results:
                    WBC  RBC  Hgb   Hct  MCV  MCH MCHC RDW RDWSD 
Plt Ct 
___ 05:41    9.8 4.31* 13.1* 39.2* 91 30.4 33.4 14.7 
49.1* 245 
 
                 Glucose UreaN Creat Na   K  Cl HCO3 AnGap 
___ 05:41    102*1 10    0.8  139 4.2 ___ 
 
 

 
Brief Hospital Course:
Mr. ___ was admitted to the hospital and taken to the 
Operating Room where he underwent a laparoscopic Toupet 
fundoplication. He tolerated the procedure well and returned to 
the PACU in stable condition. He maintained stable hemodynamics 
and his pain was controlled with IV Dilaudid. He remained NPO 
and was hydrated with IV fluids. 

Following transfer to the Surgical floor he progressed 
relatively well. He began a liquid diet and was able swallow 
without difficulty. His pain was not well controlled at first 
but improved with oral meds including Oxycodone and Tylenol. His 
major discomfort was bilateral shoulder pain from gas 
insufflation. He was up and walking independently and his port 
sites were healing well. His room air saturations were 95% and 
he was able to use his incentive spirometer effectively.
On POD1 he was able to ambulate, continue to tolerate a liquid 
diet, voiding well, and his pain was well controlled. He was 
discharged home with close follow up and appropriate care 
instructions. 

***Reinforced to continue Liquid diet for ___ days. Increase to 
soft solids as tolerated
 

***Eat small frequent meals. Sit in chair for all meals. Remain 
sitting up for ___ minutes after all meals
 

 
*** NO CARBONATED DRINKS 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. dextroamphetamine-amphetamine 5 mg oral BID 
2. Lisinopril 5 mg PO DAILY 
3. Lidocaine 5% Patch ___ PTCH TD QAM 
4. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
5. ClonazePAM 0.25 mg PO BID 
6. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
7. Ranitidine 300 mg PO QHS 
8. Simvastatin 20 mg PO QPM 
9. Ferrous Sulfate 325 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Naproxen 220 mg PO Q12H:PRN Pain - Moderate 
12. dexlansoprazole 60 mg oral DAILY 
13. Citalopram 40 mg PO DAILY 
14. Ascorbic Acid ___ mg PO DAILY 
15. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every six (6) 
hours Disp #*100 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 5 mg 1=2 tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0 
4.  Ascorbic Acid ___ mg PO DAILY  
5.  Citalopram 40 mg PO DAILY  
6.  ClonazePAM 0.25 mg PO BID  
7.  dexlansoprazole 60 mg oral DAILY  
8.  dextroamphetamine-amphetamine 5 mg oral BID  
9.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
10.  Lidocaine 5% Patch ___ PTCH TD QAM  
11.  Lisinopril 5 mg PO DAILY  
12.  Multivitamins 1 TAB PO DAILY  
13.  Naproxen 220 mg PO Q12H:PRN Pain - Moderate  
14.  Polyethylene Glycol 17 g PO DAILY  
15.  Ranitidine 300 mg PO QHS  
16.  Simvastatin 20 mg PO QPM  
17.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  
18. HELD- Ferrous Sulfate 325 mg PO DAILY  This medication was 
held. Do not restart Ferrous Sulfate until  2 weeks post op so 
as not to increase tendency for constipation

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call Dr. ___ ___ if you experience:
 -Fevers > 101 or chills
 -Difficult or painful swallowing
 -Nausea, vomiting. 
 -Increased shortness of breath

 Pain
 -Acetaminophen 1000 mg every 6 hours
 -Take stool softners while taking narcotics
 -No driving while taking narcotics

 Activity
 -Shower daily. Wash incision with mild soap and water, rinse, 
pat dry
 -No tub bathing, swimming or hot tubs until incision healed
 -No lotions or creams to incision
 -Walk ___ times a day for ___ minutes increase to a Goal of 
30 minutes daily

 Diet:
 Liquid diet for ___ days. Increase to soft solids as tolerates

 Eat small frequent meals. Sit in chair for all meals. Remain 
sitting up for ___ minutes after all meals

 NO CARBONATED DRINKS
 
Followup Instructions:
___